* OVERALL BEST CANDIDATE: 00_Phase_2_5V_to_24V_High_Current_Boost_g4_cand1_b2
* FITNESS SCORE: 0.9837
*
* Generated: 2026-06-08T12:01:37
* Constraint: Phase 2: 5V to 24V High Current (Boost)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 24
*   efficiency_target = 0.88
*   power_in = 120
* Candidate: 10 of 12
* Grouped name: g4_cand1
*
** 10V to 24V boost, 120W
Vin in 0 10
L1 in sw 10u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 4.8
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
